datasets/10k__Tet_Int.csv
SMILES Labelled
"[H]C1C(C(O[C:20](=[O:10])N1[H])CC)C.[O-:21]C>>[H]C1C(C(O[C:20](N1[H])([O-:10])[O:21]C)CC)C 21=20;20,10=10"
"CC1C(C(O[C:20](=[O:10])N1C1=CC=CC=C1)[H])C.[O-:21]CCCCCC>>CC1C(C(O[C:20](N1C1=CC=CC=C1)([O-:10])[O:21]CCCCCC)[H])C 21=20;20,10=10"
"[O-:21][C:20]1(OCC)[O+:10]([Na])C(C)C([H])=C1O>>[O:10]([Na])C(C)/C([H])=C([C:20](OCC)=[O:21])/O 21=20;20,10=10"
"C1=CC=CC=C1N([C:20]1(OC(C(C([O:21]1)C)C)C1=CC=CC=C1)[O-:10])C>>C1=CC=CC=C1N([C:20](=[O:10])OC(C(C([O-:21])C)C)C1=CC=CC=C1)C 10=20;20,21=21"
"C[O+:10]([H])[C:20]([O:21][H])([O]C)[O]C7=CC=CC=C7.[Cl-]>>[Cl-].C[O:10][H].[H][O+:21]=[C:20]([O]C)[O]C7=CC=CC=C7 21=20;20,10=10"
"CCC1C(C(O[C:20](=[O:10])N1[H])C)C.[O-:21]C>>CCC1C(C(O[C:20](N1[H])([O-:10])[O:21]C)C)C 21=20;20,10=10"
"CC[NH+:21]=[C:20]2[O]C(C)C(C)[NH]2.CC[O:10][H].[Cl-]>>[Cl-].CC[O+:10]([H])[C:20]1([NH:21]CC)[O]C(C)C(C)[NH]1 10=20;20,21=21"
"[H][NH:10]C(C9=CC=CC=C9)C(C)C(CC)[O][C:20]([O]CC)=[NH+:21]CC.[Cl-]>>[Cl-].[H][NH+:10](C(C9=CC=CC=C9)C(C)C(CC)[O]1)[C:20]1([NH:21]CC)[O]CC 10=20;20,21=21"
"CC[O+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[O][CH](C)C(C)[CH](CC)[NH]1.[Cl-]>>[Cl-].C6=CC=CC=C6[NH+:21]=[C:20]2[O][CH](C)[CH](C)C(CC)[NH]2.CC[O:10][H] 21=20;20,10=10"
"C[O+:10]([H])[C:20]1([NH:21]C)[NH][CH](CC)C([H])[CH](C8=CC=CC=C8)[NH]1.[Cl-]>>[Cl-].C[NH+:21]=[C:20]2[NH][CH](CC)[CH]([H])C(C8=CC=CC=C8)[NH]2.C[O:10][H] 21=20;20,10=10"
"C9=CC=CC=C9[O+:10]([H])[C:20]1([NH:21]C)[NH][CH](C)C([H])[CH]([H])[NH]1.[Cl-]>>[Cl-].C[NH+:21]=[C:20]2[NH][CH](C)[CH]([H])C([H])[NH]2.C9=CC=CC=C9[O:10][H] 21=20;20,10=10"
"[O-:21][C:20]1(OC)[O:10]C(CC)C([H])=C1[H]>>[O-:10]C(CC)/C([H])=C([C:20](OC)=[O:21])/[H] 21=20;20,10=10"
"C6=CC=CC=C6[NH+:21]=[C:20]2[NH]C(C7=CC=CC=C7)C(C8=CC=CC=C8)[NH]2.C9=CC=CC=C9[O:10][H].[Cl-]>>[Cl-].C9=CC=CC=C9[O+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[NH]C(C7=CC=CC=C7)C(C8=CC=CC=C8)[NH]1 10=20;20,21=21"
"CC[NH:10][H].CC[NH+:21]=[C:20]([NH]C8=CC=CC=C8)[O]C7=CC=CC=C7.[Cl-]>>[Cl-].CC[NH+:10]([H])[C:20]([NH:21]CC)([NH]C8=CC=CC=C8)[O]C7=CC=CC=C7 10=20;20,21=21"
"CCCCCCC1C(C(O[C:20](N1C)([O-:10])[O:21][H])C)CC>>CCCCCCC1C(C(O[C:20](=[O:10])N1C)C)CC.[O-:21][H] 10=20;20,21=21"
"C[NH+:21]=[C:20]2[O][CH](C)[CH]([H])C(C8=CC=CC=C8)[O]2.[H][O:10][H].[Cl-]>>[Cl-].[H][O+:10]([H])[C:20]1([NH:21]C)[O][CH](C)C([H])[CH](C8=CC=CC=C8)[O]1 10=20;20,21=21"
"CCCCCCC1C(C(O[C:20](=[O:10])N1CC)C1=CC=CC=C1)[H].[O-:21]C1=CC=CC=C1>>CCCCCCC1C(C(O[C:20](N1CC)([O-:10])[O:21]C1=CC=CC=C1)C1=CC=CC=C1)[H] 21=20;20,10=10"
"C6=CC=CC=C6[NH+:21]=[C:20]2[NH]C(CC)C(CC)[NH]2.CC[O:10][H].[Cl-]>>[Cl-].CC[O+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[NH]C(CC)C(CC)[NH]1 10=20;20,21=21"
"C6=CC=CC=C6[NH+:21]=[C:20]2[O][CH]([H])[CH](C)C(CC)[O]2.CC[O:10][H].[Cl-]>>[Cl-].CC[O+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[O][CH]([H])C(C)[CH](CC)[O]1 10=20;20,21=21"
"C1=CC=CC=C1N([C:20](=[O:10])O[H])C.[O-:21]C>>C1=CC=CC=C1N([C:20]([O-:10])(O[H])[O:21]C)C 21=20;20,10=10"
"CN([C:20]1(OC(C(C([O:21]1)CCCCCC)CC)CC)[O-:10])CC>>CN([C:20](=[O:10])OC(C(C([O-:21])CCCCCC)CC)CC)CC 10=20;20,21=21"
"[H][O:10][H].CC[NH+:21]=[C:20]([NH]C8=CC=CC=C8)[NH]CC.[Cl-]>>[Cl-].[H][O+:10]([H])[C:20]([NH:21]CC)([NH]C8=CC=CC=C8)[NH]CC 10=20;20,21=21"
"[H][NH+:10](C(C)C(C)[NH]1)[C:20]1([NH:21][H])[NH][H].[Cl-]>>[Cl-].[H][NH:10]C(C)C(C)[NH][C:20]([NH][H])=[NH+:21][H] 21=20;20,10=10"
"C[O+:21]=[C:20]2[S][CH](C)[CH](C)C([H])[O]2.C[O:10][H].[Cl-]>>[Cl-].C[O+:10]([H])[C:20]1([O:21]C)[S][CH](C)C(C)[CH]([H])[O]1 10=20;20,21=21"
"CCC1C(C(O[C:20](=[O:10])N1CCCCCC)C)[H].[O-:21]CC>>CCC1C(C(O[C:20](N1CCCCCC)([O-:10])[O:21]CC)C)[H] 21=20;20,10=10"
"[H][S:10]C([H])C(C)[S][C:20]([O]C7=CC=CC=C7)=[O+:21]C.[Cl-]>>[Cl-].[H][S+:10](C([H])C(C)[S]1)[C:20]1([O:21]C)[O]C7=CC=CC=C7 10=20;20,21=21"
"[NH:10]([H])C([H])C([H])/C([H])=C([H])\[C:20](OC)=[O:21]>>[O-:21][C:20]1(OC)C([H])=C([H])C([H])C([H])[NH+:10]1([H]) 10=20;20,21=21"
"C[NH+:21]=[C:20]2[NH][CH]([H])[CH]([H])C([H])[NH]2.[H][O:10][H].[Cl-]>>[Cl-].[H][O+:10]([H])[C:20]1([NH:21]C)[NH][CH]([H])C([H])[CH]([H])[NH]1 10=20;20,21=21"
"[OH:21][C:20]1(C)C(O)C([H])C(C)C(CCC)[OH+:10]1>>[OH:10]C(CCC)C(C)C([H])C(O)[C:20](C)=[OH+:21] 21=20;20,10=10"
"[H][O+:10](C([H])C(C)C(C)[S]1)[C:20]1([O:21][H])[O]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][O:10]C([H])C(C)C(C)[S][C:20]([O]C7=CC=CC=C7)=[O+:21][H] 21=20;20,10=10"
"[H][S:10]C(C)C([H])C([H])[O][C:20]([S][H])=[O+:21][H].[Cl-]>>[Cl-].[H][S+:10](C(C)C([H])C([H])[O]1)[C:20]1([O:21][H])[S][H] 10=20;20,21=21"
"[H][O:10]C(CC)C(CC)[O][C:20]([NH][H])=[NH+:21]C.[Cl-]>>[Cl-].[H][O+:10](C(CC)C(CC)[O]1)[C:20]1([NH:21]C)[NH][H] 10=20;20,21=21"
"CC[NH+:10]([H])[C:20]([NH:21][H])([NH][H])[O]C.[Cl-]>>[Cl-].CC[NH:10][H].[H][NH+:21]=[C:20]([NH][H])[O]C 21=20;20,10=10"
"[H][O+:10](C(C9=CC=CC=C9)C(C)C(C)[S]1)[C:20]1([O:21][H])[S][H].[Cl-]>>[Cl-].[H][O:10]C(C9=CC=CC=C9)C(C)C(C)[S][C:20]([S][H])=[O+:21][H] 21=20;20,10=10"
"[H][S:10]C(C)C([H])[O][C:20]([O][H])=[O+:21]C.[Cl-]>>[Cl-].[H][S+:10](C(C)C([H])[O]1)[C:20]1([O:21]C)[O][H] 10=20;20,21=21"
